data/mechanisms/records/IMS8-EQ8.111.json
{"mechanism_id": "IMS8-EQ8.111", "species": [{"species_id": "dimethyl_fumarate_molecular_ion", "mapped_smiles": "[CH3:11][O:10][C:8](=[O:9])[CH:1][CH+:2][C:3](=[O:4])[O:5][CH2:6][1H:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_carbenium_methylene_radical", "mapped_smiles": "[CH3:11][O:10][C:8](=[O:9])[CH:1]([1H:7])[CH+:2][C:3](=[O:4])[O:5][CH2:6]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "gamma_butyrolactone_3_ylium", "mapped_smiles": "[CH+:2]1[C:3](=[O:4])[O:5][CH2:6][CH:1]1[1H:7]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methoxycarbonyl_radical", "mapped_smiles": "[CH3:11][O:10][C:8]=[O:9]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dimethyl_fumarate_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["distonic_carbenium_methylene_radical"]}, {"state_id": "state_products", "species_ids": ["gamma_butyrolactone_3_ylium", "methoxycarbonyl_radical"]}], "steps": [{"step_id": "step_rH_six_membered", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rd_lactone_closure", "from_state": "state_distonic", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 8]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 8]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH_8_111", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_six_membered", "support_type": "textbook_proposed", "locator": {"page": 216, "equation": "8.111", "figure": null, "panel": "first arrow, labelled 'r H'", "section": "8.11 Displacement reactions (rd)"}, "confidence": 0.8, "curator_note": "SUBSTRATE READ FROM THE DRAWING: the leftmost structure is MeOCO-CH=CH-C(=O)-O-CH3 in square brackets with '+.' outside the bracket, i.e. the molecular ion of dimethyl fumarate (the two ester groups are drawn on opposite sides of the C=C, the trans/E arrangement; C6H8O4, M+. 144.042). One ester is abbreviated 'MeOCO' and attached to the upper alkene carbon; the other is drawn out in full, and ONE hydrogen of its O-methyl is written explicitly and points back across at the alkene. THIS STEP: that explicit hydrogen migrates to the alkene carbon that carries the MeOCO group, through the six-membered ring H(-C(methyl)-O-C(=O)-C-C) - exactly the '6-membered-ring H-displacement' the running text on this page invokes. The result is the centre structure the book prints: MeOCO-CH2-C(+)H-C(=O)-O-CH2., an even-electron carbenium centre on the carbon alpha to the intact ester and the odd electron on the O-methylene, which the book marks with a dot. ARC COUNT (convention D): Book draws 0 arc(s) for this step - the leftmost structure carries no curved arrows at all; the transfer is indicated only by the explicitly drawn hydrogen, the 'r H' label over the arrow, and the printed product. All three encoded moves are therefore curator-supplied to balance the electrons: move <1> the odd electron of the radical site to the forming C-H bond, move <2> one electron of the breaking C(methyl)-H bond to that same forming bond, move <3> the implicit homolysis hook that leaves the second electron of the C-H bond on the methylene carbon, which is what creates the radical the book prints as a dot. LOCALIZATION (convention C): the book leaves the charge and the odd electron DELOCALIZED - '+.' is printed outside the bracket and the C=C is drawn as an intact double bond. A mapped SMILES cannot carry that, so one resonance form is chosen and used consistently: the alkene pi bond is ionized as C(1).-C(2)+, i.e. a single C-C bond with the unpaired electron on the carbon that bears MeOCO and the positive charge on the carbon that bears the drawn-out ester. That is the only localization from which a homolytic H transfer reproduces the centre structure the book prints (the H must arrive at a radical site, and the '+' must end up where the book draws 'HC+'). STEREOCHEMISTRY: the drawn trans (fumarate) geometry is not encoded in the SMILES; it does not affect this intramolecular transfer, which reaches only to the neighbouring carbon. ATOM-MAP NOTE: the migrating hydrogen is written [1H:7] so RDKit keeps it explicit and it can carry an atom map; it is ordinary protium, not a label the book draws."}, {"evidence_id": "ev_step_rd_8_111", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_lactone_closure", "support_type": "textbook_proposed", "locator": {"page": 216, "equation": "8.111", "figure": null, "panel": "second arrow, labelled 'rd'", "section": "8.11 Displacement reactions (rd)"}, "confidence": 0.8, "curator_note": "Equation 8.111, SECOND arrow, labelled 'rd'. The O-methylene radical of the distonic ion attacks the carbon that carries the MeOCO group and displaces that group as a radical: the book prints the products as 'MeOCO .' plus a five-membered ring drawn as HC(+) at the upper left, then a CH2, then a CH2, then the ring oxygen at the right, then the C=O at the bottom back to the HC(+). That is the gamma-butyrolactone ring carrying the charge on its alpha carbon (2-oxotetrahydrofuran-3-ylium, C4H5O2+), and 'MeOCO .' is the methoxycarbonyl radical .C(=O)OCH3 (59.013); 144 - 59 = 85 for the ion. ARC COUNT (convention D): Book draws 2 arc(s), both single-barbed fishhooks, meeting barb-to-barb (they form the characteristic 'W' where the two heads touch) in the empty space between the radical-bearing methylene and the MeOCO-bearing carbon - i.e. on the forming C-C ring bond. Arc 1 starts on the bond joining the 'MeOCO' label to the 'H2C' carbon; arc 2 starts at the radical dot on the methylene. Moves <1,2> are those two drawn arcs; move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - it carries the second electron of the cleaving C-C(O)OMe bond onto the ester carbon, which is what actually makes the 'MeOCO .' radical the book writes as a product. LABEL READING: 'MeOCO-' is read as methoxycarbonyl, CH3-O-CO-, attached through the carbonyl CARBON; the mass balance (loss of 59, not 75) confirms it is the ester and not a carbonate."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 144.0417, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_85", "species_id": "gamma_butyrolactone_3_ylium", "step_id": "step_rd_lactone_closure", "observed_mz": 85.0284, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
